US09210931B2
Step 2: Preparation of 2-Chloro-4-(pyridin-3-yl)-1H-imidazol-1-amine
To a solution of E-2-Chloro-N-(4-chlorobenzylidene)-4-(pyridin-3-yl)-1H-imidazol-1-amine (210 mg, 0.66 mmol) in 2-methoxyethanol (5 mL) was added 80% hydrazine hydrate (0.5 mL). The reaction mixture was heated to 130° C. for 1 hour and then the reaction mixture was concentrated. The residue was purified by column chromatography (petroleum ether: ethyl acetate=1:1) to give the title compound (100 mg, 78%) as a yellow solid: 1H NMR (300 MHz, CDCl3) δ 8.91 (s, 1H), 8.50-8.49 (m, 1H), 8.06-8.03 (m, 1H), 7.43 (s, 1H), 7.34-7.30 (m, 1H), 4.87 (br, 2H); ESIMS m/z 195 [(M+H)]+.

reactant | E-2-Chloro-N-(4-chlorobenzylidene)-4-(pyridin-3-yl)-1H-imidazol-1-amine | 0.66 mmol, 210 mg | ClC=1N(C=C(N1)C=1C=NC=CC1)/N=C/C1=CC=C(C=C1)Cl | C15H10Cl2N4
reactant | hydrazine hydrate | 0.5 mL | O.NN
solvent | 2-methoxyethanol | 5 mL | COCCO | C3H8O2
product | 2-Chloro-4-(pyridin-3-yl)-1H-imidazol-1-amine | 100 mg, 78% | ClC=1N(C=C(N1)C=1C=NC=CC1)N | C8H7ClN4
